US05643775
The activity of the enzyme is determined by the following procedure. That is, a total 100 ml buffer solution of 57 mM potassium phosphate containing 10.8 g of trehalose, 860 mg of glutathione and 17.2 mg of EDTA·2Na, pH 7.0, is prepared. A mixture of 1,400 μl of the buffer solution, 100 μl of 20 mM NADP+ aqueous solution, 100 μl of 26 mM MgCl2 aqueous solution, 100 μl of 1.34 mM glucose 1,6-diphosphate aqueous solution, 100 μl of 31 U/ml phosphoglucomutase aqueous solution, 100 μl of 35 U/ml glucose-6-phosphate dehydrogenase aqueous solution and 100 μl of a test sample enzyme solution is incubated at 30° C. and the amount of NADPH produced is determined by the absorbance at 340 nm with the passage of lime. The quantity of enzyme which produces one μ mole of NADPH in one minute under the above reaction conditions is made one Unit.

reactant | potassium phosphate | 57 mM, 10.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trehalose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
reactant | glutathione | 860 mg | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | NADP+ | 20 mM, 100 μl | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | MgCl2 | 26 mM, 100 μl | [Mg+2].[Cl-].[Cl-]
reactant | glucose 1,6-diphosphate | 1.34 mM, 100 μl | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OP(=O)(O)O)O)O)O)OP(=O)(O)O | C6H14O12P2
reactant | glucose-6-phosphate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
